datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([H:11])([H:12])[H:13])[c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:9])[H:10].[C:19](=[C:20]([C:21]([C:22](=[C:23]([H:29])[H:30])[H:28])[H:27])[H:26])([H:24])[H:25]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[C:21]([C:20](=[C:19]([H:24])[H:25])[H:26])([C:22](=[C:23]([H:29])[H:30])[H:28])[H:27])([H:9])[H:10],86.0649
[C:0]([O:1][C:2]([C:3]([H:8])([H:9])[H:10])=[O:4])([H:5])([H:6])[H:7].[O:11][O:12]>>[C:0]([O:1][C:2]([C:3]([H:9])[H:10])=[O:4])([H:5])([H:6])[H:7].[H:8][O:11][O:12],201.6688
[C:0](=[N:1][N:2]([H:5])[H:6])([H:3])[H:4].[C:7]([H:8])([H:9])[H:10]>>[C:0](=[N:1][N:2][H:6])([H:3])[H:4].[H:5][C:7]([H:8])([H:9])[H:10],30.0411
[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[O:30][O:31][H:32]>>[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12].[H:10][O:30][O:31][H:32],73.203264
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[C:3](=[O:4])[H:11])([H:5])([H:6])[H:7].[O:12][H:13]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3](=[O:4])[H:11])[O:12][H:13])([H:5])([H:6])[H:7],0.0
[C:0]([C:1]([C:2]([C:3]([C:4](=[C:5]([C:6]([C:7]([C:8]([C:9]([H:27])([H:28])[H:29])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])[H:20])[H:19])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12]>>[C:0]([C:1](=[C:2]([H:15])[H:16])[H:14])([H:10])([H:11])[H:12].[C:3](=[C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:27])([H:28])[H:29])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:13])[H:20])[H:19])([H:17])[H:18],224.898368
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:4])([H:5])[H:6].[O:14]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([H:11])([H:12])[H:13])([H:4])([H:5])[H:6].[H:7][O:14],61.9232
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])[C:4]([C:5]([C:6]([C:7]([H:19])([H:20])[H:21])=[C:8]([C:9](=[C:10]([H:24])[H:25])[H:23])[H:22])([H:17])[H:18])([H:15])[H:16])[H:11]>>[C:0](#[C:1][C:2]1([C:3]([H:12])([H:13])[H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]([C:7]([H:19])([H:20])[H:21])[C:8]1([C:9](=[C:10]([H:24])[H:25])[H:23])[H:22])[H:11],89.956
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5]#[C:6][H:12])[H:8])[H:7].[C:13](#[C:14][C:15]([H:17])[H:18])[H:16]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])([C:5]#[C:6][H:12])[C:15]([C:14]#[C:13][H:16])([H:17])[H:18])[H:8])[H:7],35.0201
[C:4](=[C:5]([H:7])[H:8])[H:6].[O:0]=[N:1][O:2][H:3]>>[H:3][C:4](=[C:5]([H:7])[H:8])[H:6].[O:0]=[N:1][O:2],23.028736
[C:0]1([H:5])[C:1]([H:6])=[C:2]([H:7])[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11].[O:12]>>[C:0]1([H:5])=[C:4]([H:11])[C:3]([H:8])([H:9])[C:2]([H:7])=[C:1]1[H:6].[H:10][O:12],0.0
[C:0](#[C:1][c:2]1[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]([H:12])[c:7]1[H:13])[H:8].[H:14]>>[C:0](=[C:1]([c:2]1[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]([H:12])[c:7]1[H:13])[H:14])[H:8],63.2898
[C:0]([C:1](=[S:2])[H:6])([H:3])([H:4])[H:5].[C:7](=[C:8]=[C:9]([H:11])[H:12])[H:10]>>[C:0]([C:1](=[S:2])[H:6])([H:4])[H:5].[H:3][C:7](=[C:8]=[C:9]([H:11])[H:12])[H:10],55.2288
[C:0](=[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])[C:4]([C:5](=[C:6]([C:7]([H:19])([H:20])[H:21])[C:8](=[C:9]([H:23])[H:24])[H:22])[H:18])([H:16])[H:17])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2]1([C:3]([H:13])([H:14])[H:15])[C:4]([H:16])([H:17])[C:5]([H:18])[C:6]1([C:7]([H:19])([H:20])[H:21])[C:8](=[C:9]([H:23])[H:24])[H:22])[H:12])([H:10])[H:11],181.586
[C:0]([S:1])([H:2])([H:3])[H:4].[S:5]([H:6])[H:7]>>[C:0]([S:1][H:6])([H:2])([H:3])[H:4].[S:5][H:7],43.0952
[C:0]([c:1]1[c:2]([H:12])[c:3]([H:13])[c:4]([C:5](=[O:6])[H:14])[c:7]([H:15])[c:8]1[H:16])([H:9])([H:10])[H:11].[H:17]>>[C:0]([c:1]1[c:2]([H:12])[c:3]([H:13])[c:4]([C:5](=[O:6])[H:14])[c:7]([H:15])[c:8]1[H:16])([H:10])[H:11].[H:9][H:17],14.158656
[C:0]([C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([O:5][O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[C:18]([C:19]([C:20]([C:21]([C:22]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:23])([H:24])[H:25]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([O:5][O:6][H:28])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[C:18]([C:19]([C:20]([C:21]([C:22]([H:32])([H:33])[H:34])([H:30])[H:31])[H:29])([H:26])[H:27])([H:23])([H:24])[H:25],74.0568
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9]1([H:16])[C:10]2([H:17])[C:11]([H:18])([H:19])[C:12]([H:20])([H:21])[C:13]1([H:22])[C:14]([H:23])([H:24])[C:15]2([H:25])[H:26]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[H:5])([H:3])[H:4].[H:6][C:9]1([H:16])[C:10]2([H:17])[C:11]([H:18])([H:19])[C:12]([H:20])([H:21])[C:13]1([H:22])[C:14]([H:23])([H:24])[C:15]2([H:25])[H:26],24.6856
